US07482341B2
Step C]: N-[6-(2,2,2-Trifluoro-ethoxymethyl)-pyridin-2-yl]-3-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(2,2,2-Trifluoro-ethoxymethyl)-pyridin-2-ylamine (0.08 g) and 3-(trifluoromethyl)-benzenesulfonyl chloride (0.104 g) as alight yellow gum (0.066 g). MS (ESI−): 413.1 ([M−H]−).

reactant | 6-(2,2,2-Trifluoro-ethoxymethyl)-pyridin-2-ylamine | 0.08 g | FC(COCC1=CC=CC(=N1)N)(F)F | C8H9F3N2O
reactant | 3-(trifluoromethyl)-benzenesulfonyl chloride | 0.104 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | N-[6-(2,2,2-Trifluoro-ethoxymethyl)-pyridin-2-yl]-3-trifluoromethyl-benzenesulfonamide | FC(COCC1=CC=CC(=N1)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)(F)F | C15H12F6N2O3S
